US08071584B2
1-(1,1-Dimethylethyl) 7-methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate
Boc2O (2.14 mL, 9.23 mmol) and DMAP (0.226 g, 1.9 mmol) were added to a solution of methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate (2.18 g, 6.2 mmol) in THF (3.5 mL) and MeCN (35 mL). The reaction mixture was stirred at room temperature for 4.5 h and filtered through a pad of silica gel (35 g). The silica pad was washed with DCM (100 mL) and the filtrate was concentrated under reduced pressure, giving 2.64 g of crude product. The crude product was taken up in DCM (10 mL) and purified on a silica cartridge (120 g; Combiflash Companion), eluting at 60 mL/min with a gradient running from 100% hexanes to 10% EtOAc/hexanes over 45 min. The desired fractions were concentrated under reduced pressure and dried under high vacuum.

reactant | Boc2O | 9.23 mmol, 2.14 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 6.2 mmol, 2.18 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)C1CCSCC1 | C15H16BrNO2S
catalyst | DMAP | 1.9 mmol, 0.226 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | MeCN | 35 mL | CC#N | C2H3N
product | 1-(1,1-Dimethylethyl) 7-methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 2.64 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CCSCC1 | C20H24BrNO4S
